US04576938
2.66 g of 2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetic acid and 3 ml of dimethylacetamide were dissolved in 50 ml of dichloromethane, and a solution of 0.78 ml of oxalyl chloride in 2 ml of dichloromethane was added gradually thereto at -17° to -15° C. under stirring. After the mixture was stirred at the same temperature for 10 minutes, a solution of 3.22 g of 7β-amino-3-[(1-formamido-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid and 3.66 g of triethylamine in dichloromethane (40 ml)-dimethylacetamide (30 ml) was added dropwise thereto at -17° to -13° C. for 15 minutes. Then, the mixture was stirred at -18° for 3 hours. After the reaction, the mixture was evaporated under reduced pressure to remove solvent. Water was added to the residue, and the aqueous solution was washed with ethyl acetate, adjusted to pH 3 with citric acid and then extracted twice with a mixture of 20 ml of ethyl acetate and 5 ml of tetrahydrofuran. The extracts were combined, washed with water, dried and evaporated under reduced pressure to remove solvent. Ether was added to the residue thus obtained, whereby 2.87 g of 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[(1-formamido-1H)-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid were obtained as pale brown powder.

reactant | 2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetic acid | 2.66 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C25H21N3O3S
reactant | oxalyl chloride | 0.78 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7β-amino-3-[(1-formamido-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 3.22 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2NC=O)C(=O)O)C1=O | C10H11N7O4S2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | triethylamine | 3.66 g | C(C)N(CC)CC | C6H15N
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | 3-cephem-4-carboxylic acid | S1CC=C(N2[C@H]1CC2=O)C(=O)O | C7H7NO3S
